US06316440B1
A solution of 850 mg (1.6 mmol) (1-{[2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethylamino]-methyl}-3-methyl-butyl)-carbamic acid tert-butyl ester in 6 mL dichloromethane was treated with 2 mL 2,2,2-triflouroacetic acid and the resulting solution stirred 1 hour at 25° C. The mixture was concentrated at reduced pressure to a viscous amber oil to which was dissolved in 8 mL diethyl ether, and treated with 3 mL of diethyl ether which had been saturated with hydrogen chloride gas. The solvent was removed under reduced pressure, and the pale yellow oil thus obtained ((S,S)-2-(2-amino-4-methyl-pentylamino)-3-(4-benzyloxy-phenyl)-N-tert-butyl-propionamide) was used directly in the next reaction.

reactant | (1-{[2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethylamino]-methyl}-3-methyl-butyl)-carbamic acid tert-butyl ester | 1.6 mmol, 850 mg | C(C)(C)(C)OC(NC(CC(C)C)CNC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(NC(C)(C)C)=O)=O | C31H47N3O4
reactant | 2,2,2-triflouroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (S,S)-2-(2-amino-4-methyl-pentylamino)-3-(4-benzyloxy-phenyl)-N-tert-butyl-propionamide | N[C@H](CN[C@H](C(=O)NC(C)(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1)CC(C)C | C26H39N3O2
